US06924276B2
Cesium carbonate (4.7 g, 14.4 mmol) was added to a stirred solution of 2,5-thiophenedicarboxylic acid in dimethylformamide (35 mL) under an inert atmosphere at room temperature. After 5 minutes, a solution of 3,4-methylenedioxybenzyl chloride in dichloromethane (3.7 mL, 14.3 mmol) was added. After 24 hours the mixture was stirred into water (150 mL) and acidified with dilute aqueous HCl. After several hours, the precipitate was filtered off, rinsed with water, and dried to afford 0.6 g of thiophene-2,5-dicarboxylic acid di-1,3-benzodioxol-5-ylmethyl ester. Recrystallization of a sample from ethanol gave product with a mp 141-148° C.

reactant | Cesium carbonate | 14.4 mmol, 4.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,5-thiophenedicarboxylic acid | S1C(=CC=C1C(=O)O)C(=O)O | C6H4O4S
reactant | 3,4-methylenedioxybenzyl chloride | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
reactant | dichloromethane | 14.3 mmol, 3.7 mL | ClCCl | CH2Cl2
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
solvent | water | 150 mL | O | H2O
product | thiophene-2,5-dicarboxylic acid di-1,3-benzodioxol-5-ylmethyl ester | 0.6 g | O1COC2=C1C=CC(=C2)C(C2=CC1=C(OCO1)C=C2)OC(=O)C=2SC(=CC2)C(=O)O | C21H14O8S
